US06080750
2-Amino-6-chloro-4-[[(1-hydroxymethyl-1-cyclobutyl)methyl]amino]-pyrimidine (compound No. 35)
A mixture of 1-hydroxymethyl-1-cyclobutylmethylamine (5.75 g, 0.05 mol), 2-amino-4,6-dichloropyrimidine (8.20 g, 0.05 mol), ethanol (200 ml) and triethylamine (20 ml) was refluxed for one day. The solvent was distilled away under reduced pressure. The residue was washed with water, dried and recrystallized from acetone to give colorless prism crystals (11.2 g, 92.3%), m.p. 192-194° C. (acetone).

reactant | 1-hydroxymethyl-1-cyclobutylmethylamine | 0.05 mol, 5.75 g | OCC(C1CCC1)N | C6H13NO
reactant | 2-amino-4,6-dichloropyrimidine | 0.05 mol, 8.20 g | NC1=NC(=CC(=N1)Cl)Cl | C4H3Cl2N3
reactant | ethanol | 200 ml | C(C)O | C2H6O
solvent | triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
product | 2-Amino-6-chloro-4-[[(1-hydroxymethyl-1-cyclobutyl)methyl]amino]-pyrimidine | 11.2 g, 92.3% | NC1=NC(=CC(=N1)NCC1(CCC1)CO)Cl | C10H15ClN4O
